US09029370B2
b) 1-(4-(Difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylic acid
To a solution of ethyl 1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylate (600 mg, 2.12 mmol) in a mixture of THF (7 ml), methanol (7 ml) and water (7 ml) was added lithium hydroxide hydrate (267 mg, 6.36 mmol). The solution was heated to 70° C. for 3 h. Most of the organic solvent was removed under reduced pressure. Water was added and the solution was extracted with methyl tert-butyl ether to remove non-acid material. Then 25% aq. hydrochloric acid was added to reach acidic pH. The product precipitated and the mixture was extracted three times with ethyl acetate. The organic layers were combined, dried (MgSO4) and evaporated to yield a light yellow solid (583 mg, 99%). MS (ISP): 253.9 ([M−H]+); 509.2 ([2M−H]+).

reactant | ethyl 1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylate | 2.12 mmol, 600 mg | FC(OC1=CC=C(C=C1)N1N=NC(=C1)C(=O)OCC)F | C12H11F2N3O3
reactant | methanol | 7 ml | CO | CH4O
reactant | water | 7 ml | O | H2O
reactant | lithium hydroxide hydrate | 6.36 mmol, 267 mg | O.[OH-].[Li+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 1-(4-(Difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylic acid | 583 mg, 99% | FC(OC1=CC=C(C=C1)N1N=NC(=C1)C(=O)O)F | C10H7F2N3O3
